US07745641B2
3-Phenoxybenzoic acid (3.00 g, 14.0 mmol) was dissolved in DMF (45 mL), and the solution was added with EDCI (4.03 g, 21.0 mmol) and HOBT monohydrate (1.07 g, 7.00 mmol) under ice-cooling, followed by stirring at the same temperature for 5 minutes. Then, the mixture was added with cumylamine (4.03 mL, 28.0 mmol) and stirred at room temperature for 2 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by slurry using hexane to obtain 3-phenoxy-N-(1-methyl-1-phenylethyl)benzamide (4.51 g, yield 97%).

reactant | 3-Phenoxybenzoic acid | 14.0 mmol, 3.00 g | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
reactant | EDCI | 21.0 mmol, 4.03 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT monohydrate | 7.00 mmol, 1.07 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | cumylamine | 28.0 mmol, 4.03 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-phenoxy-N-(1-methyl-1-phenylethyl)benzamide | 4.51 g, yield 97% | O(C1=CC=CC=C1)C=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1 | C22H21NO2
